US08247403B2
(1) tert-butyl 9-cyclopropyl-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (400 mg, 1.16 mmol), cyclopropylboronic acid (298 mg, 3.47 mmol), saturated aqueous sodium carbonate solution (6 ml), and tetrakis(triphenylphosphine)palladium(0) (36.1 mg, 0.0313 mmol) in dimethoxyethane (10 ml) was stirred under a nitrogen atmosphere at 90° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the desired product (270 mg, 75.7%) as an oil.

reactant | tert-butyl 9-bromo-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.16 mmol, 400 mg | BrC1=CC=C(C=2CN(CCOC21)C(=O)OC(C)(C)C)F | C14H17BrFNO3
reactant | cyclopropylboronic acid | 3.47 mmol, 298 mg | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0313 mmol, 36.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-cyclopropyl-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 270 mg, 75.7% | C1(CC1)C1=CC=C(C=2CN(CCOC21)C(=O)OC(C)(C)C)F | C17H22FNO3
